US09193719B2
A mixture of 5-fluoro-4-methyl-2-nitropyridine (2 g, 12.81 mmol) and 2-chloro-4-hydroxypyridine (1.66 g, 12.81 mmol) in DMF (26 mL) was sparged with Ar, treated with K2CO3 (2.66 g, 19.22 mmol), heated at 88° C. for 24 h, then at 50° C. for 2 days. The mixture was treated with water and the resulting solid collected via filtration and dried to afford 5-((2-chloropyridin-4-yl)oxy)-4-methyl-2-nitropyridine (2.72 g, 80%). 1H NMR (400 MHz, DMSO-d6): δ 8.49 (s, 1H), 8.47 (s, 1H), 8.35 (d, J=5.7 Hz, 1H), 7.24 (d, J=2.3 Hz, 1H), 7.12 (dd, J=5.7, 2.3 Hz, 1H), 2.32 (s, 3H); MS (ESI) m/z: 266.0 (M+H+).

reactant | 5-fluoro-4-methyl-2-nitropyridine | 12.81 mmol, 2 g | FC=1C(=CC(=NC1)[N+](=O)[O-])C | C6H5FN2O2
reactant | 2-chloro-4-hydroxypyridine | 12.81 mmol, 1.66 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | K2CO3 | 19.22 mmol, 2.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 5-((2-chloropyridin-4-yl)oxy)-4-methyl-2-nitropyridine | 2.72 g, 80% | ClC1=NC=CC(=C1)OC=1C(=CC(=NC1)[N+](=O)[O-])C | C11H8ClN3O3
